US07091228B2
To a solution of methyl 4-(2-chloro-2-oxoethyl)tetrahydro-2H-pyran-4-carboxylate (1.06 g, 4.8 mmol) and bromobenzene (1.13 g, 7.21 mmol) in dichloromethane (20 mL) at 0° C. was added aluminum chloride (1.92 g, 14.4 mmol). The ice-water bath was removed and the reaction mixture was stirred at rt for 16 h. The mixture was then cooled at 0° C. and quenched by the addition of 1 N HCl solution and water. The mixture was extracted with dichloromethane, and the combined organic phases were dried over sodium sulfate. The crude material was then purified by flash chromatography (Biotage Flash 40 M, 2:1 hexane/ethyl acetate, to afford methyl 4-[2-(4-bromo-phenyl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate (900 mg, 55%). LC-MS ret. time 2.76 min; m/z 342.9 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.58–1.69 (m, 2H), 2.12–2.18 (m, 2H), 3.28 (s, 2H), 3.64 (s, 3H), 3.69–3.77 (m, 4H), 7.59 (d, 2H), 7.77 (d, 2H).

reactant | methyl 4-(2-chloro-2-oxoethyl)tetrahydro-2H-pyran-4-carboxylate | 4.8 mmol, 1.06 g | ClC(CC1(CCOCC1)C(=O)OC)=O | C9H13ClO4
reactant | bromobenzene | 7.21 mmol, 1.13 g | BrC1=CC=CC=C1 | C6H5Br
reactant | aluminum chloride | 14.4 mmol, 1.92 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methyl 4-[2-(4-bromo-phenyl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate | 900 mg, 55% | BrC1=CC=C(C=C1)C(CC1(CCOCC1)C(=O)OC)=O | C15H17BrO4
